2144-10-18 06:13:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Started Daptomycin per ID recs
   Checking cyptococcus, [** 2501**], CMV
   TTE ordered
   Got IVF in attempts to wean pressors, able to wean Levo to 0.04
   Got Clonazepam 1mg X 1 at night for anxiety
 MULTI LUMEN - START [**2144-10-17**] 08:15 AM
 FEVER - 102.0
F - [**2144-10-17**] 10:46 PM
   Allergies:
   Vancomycin
   Rash; rash comp
   Last dose of Antibiotics:
   Vancomycin - [**2144-10-17**] 02:30 PM
   Daptomycin - [**2144-10-17**] 08:39 PM
   Piperacillin/Tazobactam (Zosyn) - [**2144-10-17**] 10:25 PM
   Infusions:
   Norepinephrine - 0.04 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-10-18**] 06:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102
   Tcurrent: 37.1
C (98.8
   HR: 62 (53 - 98) bpm
   BP: 94/48(59) {84/42(56) - 115/80(85)} mmHg
   RR: 21 (13 - 27) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
    CVP: 2 (2 - 12)mmHg
   Total In:
                                                                 11,160 mL
                                                                    272 mL
   PO:
                                                                  1,490 mL
                                                                    120 mL
   TF:
   IVF:
                                                                  5,170 mL
                                                                    152 mL
   Blood products:
   Total out:
                                                                  6,445 mL
                                                                    890 mL
   Urine:
                                                                  5,445 mL
                                                                    890 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,715 mL
                                                                   -618 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: 7.42/34/32/22/-2
   Physical Examination
   VS: T97.3 HR 69 BP 84/53 RR 24  100% RA
   Gen: Awake, alert, +shaking chills, appropriate with conversation
   HEENT: NC AT, PERRL, EOMI, slight pharyngeal exudate no oral lesions
   Neck: right IJ in place
   CV: RRR s1 s2
   Lungs: CTAB
   Abd: soft, NT, ND BS+ no rebound or guarding
   Ext: no edema, warm, no rash no concerning lesions, slight erythema, no
   induration at site of L antecubital fossa where he recently injected
   crystal meth
   Labs / Radiology
   65 K/uL
   10.0 g/dL
   130 mg/dL
   0.8 mg/dL
   22 mEq/L
   4.0 mEq/L
   7 mg/dL
   113 mEq/L
   141 mEq/L
   29.5 %
   5.0 K/uL
        [image002.jpg]
                             [**2144-10-17**]  10:58 AM
                             [**2144-10-17**]  01:34 PM
                             [**2144-10-17**]  05:05 PM
                             [**2144-10-17**]  06:59 PM
                             [**2144-10-18**]  03:51 AM
   WBC
   4.2
   4.1
   5.0
   Hct
   29.6
   28.0
   29.5
   Plt
   58
   60
   65
   Cr
   0.7
   0.7
   0.8
   TCO2
   18
   23
   Glucose
   104
   116
   130
   Other labs: PT / PTT / INR:14.6/40.4/1.3, ALT / AST:46/51, Alk Phos / T
   Bili:49/0.8, Differential-Neuts:64.6 %, Lymph:31.9 %, Mono:3.4 %,
   Eos:0.1 %, Fibrinogen:309 mg/dL, Lactic Acid:1.7 mmol/L, LDH:200 IU/L,
   Ca++:8.3 mg/dL, Mg++:2.4 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
   Mr. [**Known lastname **] is a 48 yo M with HIV, HCV presenting with fevers and
   hypotension concernig for sepsis.
   .
   #Fevers - unclear source for infection at this time, although recent
   injection drug use concerning for bacteremia other likely source would
   be viral respiratory infection, PNA less likely given clear CXR. LP
   without evidence of meningitis, UA negative.  Given ECG conduction
   problems, considering [**Name (NI) **], myocarditis.
   -f/u nasal aspirate for influenza
   -continue Daptomycin and Zosyn, add Clinda per ID recs X 48 hours
   -f/u cultures, [**Name (NI) 2501**] serologies, C. Diff
   - Tylenol for fevers alternating with Ibuprofen for liver disease
   .
   #Hypotension - concerning for sepsis given high fevers.
   -continue with antibiotics
   -continue levophed with goal MAP >65, attempt to wean as tolerated
   -continue IVF to maintain CVP 8-10
   - [**Last Name (un) **] stim test today
   .
   #Thrombocytopenia, coagulopathy - new compared with baseline, likely
   [**1-11**] acute sepsis.  No current evidence of bleeding. DIC labs negative.
   -monitor PLT, coags
   ..
   #HIV/HCV - followed by Dr. [**First Name (STitle) 2482**] and Dr. [**Last Name (STitle) 2483**] of ID service.  LFT's at
   baseline.
   -continue [**Doctor Last Name 817**] with kaletra and truvada
   -hold off on ribaviron for now per Dr. [**First Name (STitle) 2482**]
   .
   #Anemia - per patient [**1-11**] interferon/ribaviron therapy, gets aranesp
   injestions.  No evidence of acute bleeding and HCT close to baseline.
   -monitor HCT, PLT
   #PPX: pneumoboots (hold heparin given thrombocytopenia), bowel reg if
   needed
   .
   #FEN - regular diet, replete lytes prn
   .
   #Code Status - Full
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2144-10-17**] 08:15 AM
   18 Gauge - [**2144-10-17**] 08:15 AM
   20 Gauge - [**2144-10-17**] 08:15 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   ------ Protected Section ------
   MICU ATTNEDING PROGRESS NOTE
   I saw and examined the patient and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points: 48 yo M with HIV/AIDS, HCV, presented
   yesterday with temps to 103-104X 1 day, HA and body aches. Admits to
   crystal meth injection [**10-15**] prior to start of sx
s.  In ED febrile and
   became hypotensive with fluid resusc and levophed started after IJ
   placement.  Pan cx
d, had LP which was unremarkable for bacterial men.
   Received empiric antbx and ID consulted.  Admitted to MICU for further
   care.  Fluid resuscitated and now weaning down levophed.  EP consulted
   yesterday for bradycardia and ? heart block vs sick sinus.
   Exam notable for Tm 102 Tc98.8 BP 94/48  HR 62  RR 21  sat 99% on RA. +
   4.7 L/24 hrs  Alert, appropriate and pleasant in NAD, MMM, R IJ site
   c/d/i, lungs CTA, RR, benign abd, no erythema or abscess at skin
   injection site, no edema, warm ext
   Labs notable for WBC 5.0  HCT 29.6, plt 65   K 4.0 , co2 22  cr 0.8,
   lactate 1.7, tox screen neg MICRO: csf, bl urine cxs pending.
   No new imaging.
   Agree with plan to continue aggressive infectious workup for source of
   sepsis with fevers, hypotension.  DDX includes injection related
   bacteremia, SBE, viral process, influenza, pna (no evidence on CXR) as
   well as atypical infections (such as CMV, crypto, [**Month/Day (4) 2501**]).  ID c/s
   appreciated.  No murmur on exam or stigmata of SBE, but will
   pursue echo. Will continue Zosyn and dapto (switched from vanco per
   ID). Although improving overall, unable to wean off pressor despite
   aggressive IVF.  Will continue to bolus for CVP 8-12.  Will add clinda
   (per ID) and will check [**Last Name (un) **] stim to eval for adrenal
   insuff/adrenalitis.  F/u cx data, check influenza swab, repeat set
   blood cxs and send off serologies for cmv, crypto and [**Last Name (un) 2501**].
   Thrombocytopenia and coagulapathy stable without evidence of DIC.
   Regarding his cardiac conduction process this seems most likely a rate
   related process with junctional escape--ep input appreciated.  Remains
   now in a NSR.  Continue tele.
   Remainder of plan as outlined above.
   Patient is critically ill
   Total time: 40 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 143**] [**Last Name (NamePattern1) 144**], MD
   on:[**2144-10-18**] 02:54 PM ------

2144-10-19 05:32:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Following cultures: CMV, Flu, Legionella, and [** **]
   - TTE ordered but not yet performed
   - Started on clindamycin per ID recs as an anti-toxin [**Doctor Last Name **].
   - [**Last Name (un) 567**]-Stim: 12.2 - 32.1 - 35.9
 normal
   - Following bacterial cultures- negative thus far
   - Follow coags in the AM.
   - Had persistent hypotension, refractory to fluid resuscition, and was
   started on .Levophed and pan cultured.
   - Started having a new rash.
   - Subsequently, stopped clindamycin and sent a tryptase send out lab.
 FEVER - 101.1
F - [**2144-10-19**] 03:45 AM
   Allergies:
   Vancomycin
   Rash; rash comp
   Last dose of Antibiotics:
   Vancomycin - [**2144-10-17**] 02:30 PM
   Piperacillin/Tazobactam (Zosyn) - [**2144-10-18**] 07:00 AM
   Daptomycin - [**2144-10-18**] 08:00 PM
   Piperacillin - [**2144-10-18**] 10:00 PM
   Clindamycin - [**2144-10-19**] 12:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-10-19**] 05:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 38.4
C (101.1
   HR: 89 (61 - 89) bpm
   BP: 91/49(59) {79/40(50) - 118/74(86)} mmHg
   RR: 22 (16 - 26) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
    CVP: 8 (0 - 17)mmHg
   Total In:
                                                                  4,067 mL
                                                                  1,225 mL
   PO:
                                                                  1,390 mL
                                                                    120 mL
   TF:
   IVF:
                                                                  2,677 mL
                                                                  1,105 mL
   Blood products:
   Total out:
                                                                  4,240 mL
                                                                    210 mL
   Urine:
                                                                  4,240 mL
                                                                    210 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -173 mL
                                                                  1,015 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ///21/
   Physical Examination
   Gen: Awake, alert, +shaking chills, appropriate with conversation
   HEENT: NC AT, PERRL, EOMI, slight pharyngeal exudate no oral lesions.
   R IJ line placed.
   Neck: right IJ in place  Not erythematous or indurated.  No LAD
   CV: RRR s1 s2
   Lungs: CTAB
   Abd: soft, NT, ND BS+ no rebound or guarding
   Ext: no edema, warm, mild rash on thighs and buttocks., slight
   erythema, no induration at site of L antecubital fossa where he
   recently injected crystal meth
   Skin: Diffuse, blanching, erythematous rash, mostly on trunk and back,
   sparing shoulders and face, involving buttocks and thighs.
   Labs / Radiology
   49 K/uL
   8.6 g/dL
   93 mg/dL
   0.8 mg/dL
   21 mEq/L
   3.4 mEq/L
   11 mg/dL
   110 mEq/L
   139 mEq/L
   25.5 %
   3.2 K/uL
        [image002.jpg]
   U/A- [**5-19**] WB, >50 RBCs
   Micro- [**10-17**] sputum- 2+ GPC, 2+ GNR
                             [**2144-10-17**]  10:58 AM
                             [**2144-10-17**]  01:34 PM
                             [**2144-10-17**]  05:05 PM
                             [**2144-10-17**]  06:59 PM
                             [**2144-10-18**]  03:51 AM
                            [**2144-10-19**]  03:00 AM
   WBC
   4.2
   4.1
   5.0
   3.2
   Hct
   29.6
   28.0
   29.5
   25.5
   Plt
   58
   60
   65
   49
   Cr
   0.7
   0.7
   0.8
   0.8
   TCO2
   18
   23
   Glucose
   104
   116
   130
   93
   Other labs: PT / PTT / INR:13.3/97.2/1.1, ALT / AST:46/51, Alk Phos / T
   Bili:49/0.8, Differential-Neuts:64.6 %, Lymph:31.9 %, Mono:3.4 %,
   Eos:0.1 %, Fibrinogen:309 mg/dL, Lactic Acid:1.7 mmol/L, LDH:200 IU/L,
   Ca++:7.7 mg/dL, Mg++:1.8 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   Mr. [**Known lastname **] is a 48 yo M with HIV, HCV presenting with fevers and
   hypotension concernig for sepsis.
   .
   #Fevers - unclear source for infection at this time, although recent
   injection drug use concerning for bacteremia/endocarditis, with
   differential including staph, partially treated strep (pt received
   penicillin for syphilis), or culture negative agents.  Fever,
   hypotension, and rash would be concerning for a toxic-shock syndrome
   picture, but again, patient would be likely culture positive.  Other
   likely sources would be viral respiratory infection, PNA less likely
   given clear CXR. LP without evidence of meningitis.  U/A is positive,
   representing possible UTI, pyelonephritis, or spillover of infection
   from the bloodstream.  However, this would be covered by antibiotics.
   Given ECG conduction problems, considering [**Name (NI) **], myocarditis.
   -f/u nasal aspirate for influenza
   -continue Daptomycin because of vanco allergy, Zosyn, add Clinda per ID
   recs X 48 hours
   -f/u cultures, [**Name (NI) 2501**] serologies, C. Diff
   - Tylenol for fevers alternating with Ibuprofen for liver disease
   .
   #Hypotension - concerning for sepsis given high fevers.   [**Last Name (un) 567**] stim
   test normal
   -continue with antibiotics
   -continue levophed with goal MAP >65, attempt to wean as tolerated
   -continue IVF to maintain CVP 8-10.
   .
   #Thrombocytopenia, coagulopathy
 Lower than baseline.  No current
   evidence of bleeding. DIC labs negative.  Ddx: primary HIV effects,
   drug (interferon, HAART) effects, or consumptive process/dilution.
   -monitor PLT, coags
   -transfuse if Hct<21, Plt<[**9-23**]
   .
   Rash- Most likely drug rash, followed by viral exanthem, and toxic
   shock syndrome much less likely.  No ocular/mucous membrane involvement
   concerning for  [**Doctor Last Name 2527**]-[**Location (un) 744**].
   -          Sarna lotion for symptomatic relief.  Diphenhydramine for
   same.
   -          If skin grows painful, or eyes/mouth become involved, derm
   consult
   #HIV/HCV - followed by Dr. [**First Name (STitle) 2482**] and Dr. [**Last Name (STitle) 2483**] of ID service.  LFT's at
   baseline.
   -continue [**Doctor Last Name 817**] with kaletra and truvada
   -hold off on ribaviron for now per Dr. [**First Name (STitle) 2482**]
   .
   #Anemia - per patient [**1-11**] interferon/ribaviron therapy, gets aranesp
   injestions.  No evidence of acute bleeding and HCT close to baseline.
   -monitor HCT, PLT
   #PPX: pneumoboots (hold heparin given thrombocytopenia), bowel reg if
   needed
   .
   #FEN - regular diet, replete lytes prn
   .
   #Code Status - Full
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2144-10-17**] 08:15 AM
   18 Gauge - [**2144-10-17**] 08:15 AM
   20 Gauge - [**2144-10-17**] 08:15 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2144-10-19 11:38:00 Physician Attending Progress Note
Chief Complaint: Sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BLOOD CULTURED - At [**2144-10-19**] 04:30 AM
 FEVER - 101.1
F - [**2144-10-19**] 03:45 AM
   -Levophed restarted overnight
   Allergies:
   Vancomycin
   Rash; rash comp
   Last dose of Antibiotics:
   Vancomycin - [**2144-10-17**] 02:30 PM
   Piperacillin/Tazobactam (Zosyn) - [**2144-10-18**] 07:00 AM
   Daptomycin - [**2144-10-18**] 08:00 PM
   Piperacillin - [**2144-10-18**] 10:00 PM
   Clindamycin - [**2144-10-19**] 09:00 AM
   Infusions:
   Norepinephrine - 0.1 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Respiratory: Tachypnea
   Heme / Lymph: Anemia
   Flowsheet Data as of  [**2144-10-19**] 11:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 37.4
C (99.4
   HR: 82 (60 - 91) bpm
   BP: 103/57(65) {68/30(41) - 135/74(86)} mmHg
   RR: 22 (16 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
   CVP: 8 (0 - 18)mmHg
   Total In:
                                                                  4,067 mL
                                                                  1,814 mL
   PO:
                                                                  1,390 mL
                                                                    520 mL
   TF:
   IVF:
                                                                  2,677 mL
                                                                  1,294 mL
   Blood products:
   Total out:
                                                                  4,240 mL
                                                                    850 mL
   Urine:
                                                                  4,240 mL
                                                                    850 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -173 mL
                                                                    964 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///21/
   Physical Examination
   General Appearance: Thin
   Cardiovascular: (S1: Absent), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: )
   Skin:  Not assessed, Rash: Diffuse and intense coalescent erythematous
   rash dominant on trunk
back and front with mild involvement in proximal
   LE medially.
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.6 g/dL
   49 K/uL
   93 mg/dL
   0.8 mg/dL
   21 mEq/L
   3.4 mEq/L
   11 mg/dL
   110 mEq/L
   139 mEq/L
   25.5 %
   3.2 K/uL
        [image002.jpg]
                             [**2144-10-17**]  10:58 AM
                             [**2144-10-17**]  01:34 PM
                             [**2144-10-17**]  05:05 PM
                             [**2144-10-17**]  06:59 PM
                             [**2144-10-18**]  03:51 AM
                            [**2144-10-19**]  03:00 AM
   WBC
   4.2
   4.1
   5.0
   3.2
   Hct
   29.6
   28.0
   29.5
   25.5
   Plt
   58
   60
   65
   49
   Cr
   0.7
   0.7
   0.8
   0.8
   TCO2
   18
   23
   Glucose
   104
   116
   130
   93
   Other labs: PT / PTT / INR:13.3/37.2/1.1, ALT / AST:46/51, Alk Phos / T
   Bili:49/0.8, Differential-Neuts:64.6 %, Lymph:31.9 %, Mono:3.4 %,
   Eos:0.1 %, Fibrinogen:309 mg/dL, Lactic Acid:1.7 mmol/L, LDH:200 IU/L,
   Ca++:7.7 mg/dL, Mg++:1.8 mg/dL, PO4:2.4 mg/dL
   Fluid analysis / Other labs: AG-8
   Imaging: CXR-[**2144-10-19**]
   Elevated right diaphragm
   right IJ in proximal RA
   Microbiology: Sputum-2+ GPC's and 2+ GNR's
   Assessment and Plan
   48 yo male with history of HIV and Hep C now admit with sepsis and
   significant hypotension now with antibiotics maintained and transient
   discontinuation of levophed has had recurrent fever and hypotension
   requiring return of pressor suppport.  He has wide range of
   differential diagnosis in terms of possible sources of continued fever
   and sepsis requiring pressor support in the setting of
   immunosupression.
 HEART BLOCK, COMPLETE (CHB)
 SHOCK, SEPTIC
   -Daptomycin/Zosyn
   -Persistent compromise raises the issue of possible treatment failure
   and/or TSS has been raised
   -Clinda added for TSS x 48 hours
   -Favor addition of Levofloxacin for possible atypical bacterial
   -ECHO today
   -Wean Levophed as possible today, IVF bolus as needed
   HIV-
   -Meds continued per ID suggestion
   RASH-Signifiant eruption in the past 24 hours and in the setting of
   recurrent hypotension
   -Unclear as to source
   -No evidence of mucosal infection
   -No bullae
   -Possible Vanco reaction but is atypical in timing and pattern
   -Derm consult if persistent
   THROMBOCYTOPENIA-
   -Stable and low
   -Heparin held
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2144-10-17**] 08:15 AM
   18 Gauge - [**2144-10-17**] 08:15 AM
   20 Gauge - [**2144-10-17**] 08:15 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition :ICU
   Total time spent: 45 minutes

2144-10-20 06:12:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2144-10-19**] 02:00 PM- showed increased
   pulmonary htn, but no vegetations or marked wall motion abnormalities
   -rash worsened
 FEVER - 102.2
F - [**2144-10-19**] 05:45 PM, sent standard and fungal
   cultures
   Fever- 103 this AM
   -still on levophed, received 1.5 L NS, 1L LR
   -ID recs
   -Derm to be consulted for worsening rash; prn benadryl & sarna lotion
   ordered
   -Levophed weaned during day but restarted at night; IVF boluses also
   given
   -Azithromycin started for atypical coverage
   -[**Year (4 digits) **] serologies sent to [**Hospital3 2537**]
   Allergies:
   Vancomycin
   Rash; rash comp
   Last dose of Antibiotics:
   Vancomycin - [**2144-10-17**] 02:30 PM
   Piperacillin - [**2144-10-18**] 10:00 PM
   Daptomycin - [**2144-10-19**] 08:30 PM
   Piperacillin/Tazobactam (Zosyn) - [**2144-10-19**] 09:40 PM
   Clindamycin - [**2144-10-20**] 12:00 AM
   Infusions:
   Norepinephrine - 0.1 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-10-20**] 06:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39
C (102.2
   Tcurrent: 36.9
C (98.5
   HR: 88 (62 - 95) bpm
   BP: 105/60(71) {74/35(31) - 113/62(73)} mmHg
   RR: 28 (14 - 31) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
    CVP: 6 (2 - 13)mmHg
   Total In:
                                                                  4,713 mL
                                                                  1,164 mL
   PO:
                                                                  1,440 mL
   TF:
   IVF:
                                                                  3,273 mL
                                                                  1,164 mL
   Blood products:
   Total out:
                                                                  2,880 mL
                                                                    969 mL
   Urine:
                                                                  2,880 mL
                                                                    969 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,833 mL
                                                                    195 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///20/
   Physical Examination
   Gen: Awake, alert, +shaking chills, appropriate with conversation
   HEENT: NC AT, PERRL, EOMI, slight pharyngeal exudate no oral lesions.
   R IJ line placed.
   Neck: right IJ in place  Not erythematous or indurated.  No LAD
   CV: RRR s1 s2
   Lungs: CTAB
   Abd: soft, NT, ND BS+ no rebound or guarding
   Ext: no edema, warm, mild rash on thighs and buttocks., slight
   erythema, no induration at site of L antecubital fossa where he
   recently injected crystal meth
   Skin: Diffuse, blanching, erythematous rash, mostly on trunk and back,
   with slight morbiliform pattern on chest.  New facial involvement,
   Increased  involvement of buttocks and thighs.  No exfoliation,, no
   oral crusting or oral ulcers, No ocular lesions.  No tenderness to skin
   palpation.
   Labs / Radiology
   64 K/uL
   8.6 g/dL
   100 mg/dL
   0.8 mg/dL
   20 mEq/L
   3.4 mEq/L
   10 mg/dL
   110 mEq/L
   138 mEq/L
   24.9 %
   5.7 K/uL
        [image002.jpg]
                             [**2144-10-17**]  10:58 AM
                             [**2144-10-17**]  01:34 PM
                             [**2144-10-17**]  05:05 PM
                             [**2144-10-17**]  06:59 PM
                             [**2144-10-18**]  03:51 AM
                            [**2144-10-19**]  03:00 AM
                            [**2144-10-20**]  02:12 AM
   WBC
   4.2
   4.1
   5.0
   3.2
   5.7
   Hct
   29.6
   28.0
   29.5
   25.5
   24.9
   Plt
   58
   60
   65
   49
   64
   Cr
   0.7
   0.7
   0.8
   0.8
   0.8
   TCO2
   18
   23
   Glucose
   104
   116
   130
   93
   100
   Other labs: PT / PTT / INR:13.3/37.2/1.1, ALT / AST:46/51, Alk Phos / T
   Bili:49/0.8, Differential-Neuts:64.6 %, Lymph:31.9 %, Mono:3.4 %,
   Eos:0.1 %, Fibrinogen:309 mg/dL, Lactic Acid:1.7 mmol/L, LDH:200 IU/L,
   Ca++:7.4 mg/dL, Mg++:1.7 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   Mr. [**Known lastname **] is a 48 yo M with HIV, HCV presenting with fevers and
   hypotension concerning for sepsis.  Now has worsening rash.
   .
   #Fevers - unclear source for infection at this time.  Ddx: recent
   injection drug use concerning for bacteremia/endocarditis, with
   differential including staph, partially treated strep (pt received
   penicillin for syphilis), or culture negative pathogens, echo TTE was
   negative for vegetations.  Fever, hypotension, and rash would be
   concerning for a toxic-shock syndrome picture, but again, patient would
   be likely culture positive.  Other potential sources would be viral
   infection or reactivation, histoplasmosis (rarely reported to cause
   diffuse erythematous rashes), and syphilis.  Of potential anatomic
   sources, PNA unlikely given clear CXR, but patient has ongoing cough.
   Given ECG conduction problems, considering [**Name (NI) **], myocarditis.  LP
   without evidence of meningitis.  U/A is positive, representing possible
   UTI, pyelonephritis, or spillover of infection from the bloodstream.
   However, this would be covered by antibiotics.  Among non-infectious
   sources, a drug fever is possible, but patient
s fever and hypotension
   preceded initiation of antibiotics.
   -f/u nasal aspirate for influenza
   -urine histo antigen
   -Repeat RPR
   -continue Daptomycin because of vanco allergy, Zosyn, d/c clindamycin
   today
   -f/u cultures, [**Name (NI) 2501**] serologies, C. Diff
   - Tylenol for fevers alternating with Ibuprofen for liver disease
   -Consider induced sputum for PCP if breathing worsens
   -Order differential on CBC looking for eosinophilia to support drug
   reaction
   .
   #Hypotension - concerning for sepsis given high fevers.   [**Last Name (un) 567**] stim
   test normal.  Rash may be contributing by causing vasodilation and
   decreased peripheral resistance.
   -continue with antibiotics
   -continue levophed with goal MAP >65, attempt to wean as tolerated
   -continue IVF to maintain CVP 8-10.
   .
   #Thrombocytopenia, coagulopathy
 Lower than baseline.  No current
   evidence of bleeding. DIC labs negative.  Ddx: primary HIV effects,
   drug (interferon, HAART) effects, or consumptive process/dilution.
   -monitor PLT, coags
   -transfuse if Hct<21, Plt<[**9-23**]
   .
   -          Rash- Most likely drug rash, followed by viral exanthem, and
   toxic shock syndrome.  No ocular/mucous membrane involvement or skin
   pain concerning for  [**Doctor Last Name 2527**]-[**Location (un) 744**] syndrome/TEN.  Additionally,
   histoplasmosis can rarely present with diffuse macular rashes.  Patient
   has h/o drug rash in response to vancomycin.  Vancomycin has some
   associated rashes, (infusion related Red Man (unlikely given timing of
   rash) IgE hypersensitivity, linear IgA  bullous dermatosis) and a rare
   exfoliative dermatitis, but pt
s rash is not yet consistent with any of
   these.  Zosyn is an unusual source of rash (2.3-5%).  HIV-associated
   erythrodermic rashes include drug reaction, hypereosinophilic syndrome,
   pityriasis rubra pilaris, and severe psoriasis.  The latter two would
   exhibit more epidermal and keratotic changes.  Finally, other HIV
   medications are capable of causing rashes, but he has been on these
   agents in the past.
   -          Derm consult as above.
   -          Sarna lotion for symptomatic relief.  Diphenhydramine for
   same.  Consider switching to atarax to decrease sedation.
   -          If skin grows painful, or eyes/mouth become involved,
   re-consult derm
   #HIV/HCV - followed by Dr. [**First Name (STitle) 2482**] and Dr. [**Last Name (STitle) 2483**] of ID service.  LFT's at
   baseline.
   -continue [**Doctor Last Name 817**] with kaletra and truvada
   -Per ID, patient
s HCV treatment will be placed on hold until he begins
   treatment for methamphetamine addiction.
   .
   #Anemia - per patient [**1-11**] interferon/ribaviron therapy, gets aranesp
   injestions.  No evidence of acute bleeding and HCT close to baseline.
   -monitor HCT, PLT
   #PPX: pneumoboots (hold heparin given thrombocytopenia), bowel reg if
   needed
   .
   #FEN - regular diet, replete lytes prn
   .
   #Social- SW consult for addiction
   #Code Status - Full
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2144-10-17**] 08:15 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2144-10-20 11:36:00 Physician Attending Progress Note
Chief Complaint: Sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2144-10-19**] 02:00 PM
 FEVER - 102.2
F - [**2144-10-19**] 05:45 PM
   Azithro added for atypical coverage
   ECHO without evidence of vegitation
   Rash persists and has evolved to increased areas of skin
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   Vancomycin
   Rash; rash comp
   Last dose of Antibiotics:
   Vancomycin - [**2144-10-17**] 02:30 PM
   Piperacillin - [**2144-10-18**] 10:00 PM
   Daptomycin - [**2144-10-19**] 08:30 PM
   Piperacillin/Tazobactam (Zosyn) - [**2144-10-19**] 09:40 PM
   Clindamycin - [**2144-10-20**] 08:30 AM
   Infusions:
   Norepinephrine - 0.1 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Flowsheet Data as of  [**2144-10-20**] 11:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.5
C (103.1
   Tcurrent: 37
C (98.6
   HR: 80 (62 - 95) bpm
   BP: 104/54(65) {74/37(31) - 113/62(71)} mmHg
   RR: 26 (14 - 31) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
   CVP: 3 (2 - 13)mmHg
   Total In:
                                                                  4,713 mL
                                                                  2,448 mL
   PO:
                                                                  1,440 mL
                                                                  1,100 mL
   TF:
   IVF:
                                                                  3,273 mL
                                                                  1,348 mL
   Blood products:
   Total out:
                                                                  2,880 mL
                                                                  1,739 mL
   Urine:
                                                                  2,880 mL
                                                                  1,739 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,833 mL
                                                                    709 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///20/
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm, Rash: INcreased to lower extremities and remains warm,
   ethythematous without bullae
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.6 g/dL
   64 K/uL
   100 mg/dL
   0.8 mg/dL
   20 mEq/L
   3.4 mEq/L
   10 mg/dL
   110 mEq/L
   138 mEq/L
   24.9 %
   5.7 K/uL
        [image002.jpg]
                             [**2144-10-17**]  10:58 AM
                             [**2144-10-17**]  01:34 PM
                             [**2144-10-17**]  05:05 PM
                             [**2144-10-17**]  06:59 PM
                             [**2144-10-18**]  03:51 AM
                            [**2144-10-19**]  03:00 AM
                            [**2144-10-20**]  02:12 AM
   WBC
   4.2
   4.1
   5.0
   3.2
   5.7
   Hct
   29.6
   28.0
   29.5
   25.5
   24.9
   Plt
   58
   60
   65
   49
   64
   Cr
   0.7
   0.7
   0.8
   0.8
   0.8
   TCO2
   18
   23
   Glucose
   104
   116
   130
   93
   100
   Other labs: PT / PTT / INR:13.3/37.2/1.1, ALT / AST:46/51, Alk Phos / T
   Bili:49/0.8, Differential-Neuts:64.6 %, Lymph:31.9 %, Mono:3.4 %,
   Eos:0.1 %, Fibrinogen:309 mg/dL, Lactic Acid:1.7 mmol/L, LDH:200 IU/L,
   Ca++:7.4 mg/dL, Mg++:1.7 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   48 yo with history of HIV/AIDS and now with admission with sepsis now
   with persistent fevers and evolving skin rash. This may well be drug
   reaction but there is a meaninful concern for persistent infection in
   the setting of ongoing fevers and rash.
   1)Sepsis-
   -Rash to be evaluate by Dermatology
   -Add Diff to CBC
   -Continue Dapto/Zosyn
   -F/U titres and cultures
   2)Substance Abuse-
   -Addictions consult to eval patient
 HEART BLOCK, COMPLETE (CHB)
 SHOCK, SEPTIC
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2144-10-17**] 08:15 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2144-10-21 05:52:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 URINE CULTURE - At [**2144-10-20**] 05:00 PM
 FEVER - 103.4
F - [**2144-10-21**] 12:00 AM
   Continues to be febrile despite Tylenol, ibuprofen
   Clinda stopped
   Levophed stopped at 1pm yesterday, BPs in 80s but lots of urine output
   Derm consulted for rash, thought it to be drug rash.  started
   hydroxyzine, triamcinolone cream, ranitidine, sarna lotion
   Allergies:
   Vancomycin
   Rash; rash comp
   Last dose of Antibiotics:
   Piperacillin - [**2144-10-18**] 10:00 PM
   Clindamycin - [**2144-10-20**] 08:30 AM
   Daptomycin - [**2144-10-20**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2144-10-20**] 10:00 PM
   Infusions:
   Norepinephrine - 0.03 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-10-21**] 05:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.7
C (103.4
   Tcurrent: 37.9
C (100.2
   HR: 86 (70 - 90) bpm
   BP: 90/54(62) {83/34(48) - 122/79(89)} mmHg
   RR: 27 (10 - 30) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
    CVP: 3 (3 - 10)mmHg
   Total In:
                                                                  3,964 mL
                                                                    575 mL
   PO:
                                                                  2,200 mL
                                                                    500 mL
   TF:
   IVF:
                                                                  1,764 mL
                                                                     75 mL
   Blood products:
   Total out:
                                                                  4,739 mL
                                                                  1,440 mL
   Urine:
                                                                  4,739 mL
                                                                  1,440 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -775 mL
                                                                   -865 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///21/
   Physical Examination
   Gen: Awake, alert, +shaking chills, appropriate with conversation
   HEENT: NC AT, PERRL, EOMI, slight pharyngeal exudate no oral lesions.
   R IJ line placed.
   Neck: right IJ in place  Not erythematous or indurated.  No LAD
   CV: RRR s1 s2
   Lungs: CTAB
   Abd: soft, NT, ND BS+ no rebound or guarding
   Ext: no edema, warm, mild rash on thighs and buttocks., slight
   erythema, no induration at site of L antecubital fossa where he
   recently injected crystal meth
   Skin: Diffuse, blanching, erythematous rash, mostly on trunk and back,
   with slight morbiliform pattern on chest.  New facial involvement,
   Increased  involvement of buttocks and thighs.  No exfoliation,, no
   oral crusting or oral ulcers, No ocular lesions.  No tenderness to skin
   palpation.
   Labs / Radiology
   63 K/uL
   8.6 g/dL
   108 mg/dL
   0.9 mg/dL
   21 mEq/L
   3.9 mEq/L
   9 mg/dL
   105 mEq/L
   136 mEq/L
   25.4 %
   7.2 K/uL
        [image002.jpg]
   Nasal viral aspirates- negative
                             [**2144-10-17**]  10:58 AM
                             [**2144-10-17**]  01:34 PM
                             [**2144-10-17**]  05:05 PM
                             [**2144-10-17**]  06:59 PM
                             [**2144-10-18**]  03:51 AM
                            [**2144-10-19**]  03:00 AM
                            [**2144-10-20**]  02:12 AM
                            [**2144-10-21**]  03:48 AM
   WBC
   4.2
   4.1
   5.0
   3.2
   5.7
   7.2
   Hct
   29.6
   28.0
   29.5
   25.5
   24.9
   25.4
   Plt
   58
   60
   65
   49
   64
   63
   Cr
   0.7
   0.7
   0.8
   0.8
   0.8
   0.9
   TCO2
   18
   23
   Glucose
   104
   116
   130
   93
   100
   108
   Other labs: PT / PTT / INR:13.3/37.2/1.1, ALT / AST:46/51, Alk Phos / T
   Bili:49/0.8, Differential-Neuts:80.0 %, Band:7.0 %, Lymph:9.0 %,
   Mono:4.0 %, Eos:0.0 %, Fibrinogen:309 mg/dL, Lactic Acid:1.7 mmol/L,
   LDH:200 IU/L, Ca++:7.4 mg/dL, Mg++:2.1 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
   Assessment and Plan
   Mr. [**Known lastname **] is a 48 yo M with HIV, HCV presenting with fevers and
   hypotension concerning for sepsis.  Now has worsening rash.
   .
   #Fevers - unclear source for infection at this time.  Ddx: recent
   injection drug use concerning for bacteremia/endocarditis, with
   differential including staph, partially treated strep (pt received
   penicillin for syphilis), or culture negative pathogens, echo TTE was
   negative for vegetations.  Fever, hypotension, and rash would be
   concerning for a toxic-shock syndrome picture, but again, patient would
   be likely culture positive.  Other potential sources would be viral
   infection or reactivation, histoplasmosis (rarely reported to cause
   diffuse erythematous rashes), and syphilis.  Of potential anatomic
   sources, PNA unlikely given clear CXR, but patient has ongoing cough.
   Given ECG conduction problems, considering [**Name (NI) **], myocarditis.  LP
   without evidence of meningitis.  U/A is positive, representing possible
   UTI, pyelonephritis, or spillover of infection from the bloodstream.
   However, this would be covered by antibiotics.  Among non-infectious
   sources, a drug fever is possible, but patient
s fever and hypotension
   preceded initiation of antibiotics.
   -Continue surveillance blood cultures
   urine histo antigen
   -f/u RPR
   -continue Daptomycin because of vanco allergy, Zosyn.  D/c antibiotics
   tomorrow
   -[**Name (NI) 2501**] serologies, C. Diff
   - Tylenol for fevers alternating with Ibuprofen for liver disease
   -Consider induced sputum for PCP if breathing worsens
   -Order differential on CBC looking for eosinophilia to support drug
   reaction.  Also, check LFTs, creatinine looking for signs of DRESS
   syndrome.
   .
   #Hypotension - concerning for sepsis given high fevers.   [**Last Name (un) 567**] stim
   test normal.  Rash may be contributing by causing vasodilation and
   decreased peripheral resistance.   D/c
d levophed.
   -continue with antibiotics
   -continue IVF to maintain CVP 8-10.
   .
   #Thrombocytopenia, coagulopathy
 Lower than baseline.  No current
   evidence of bleeding. DIC labs negative.  Ddx: primary HIV effects,
   drug (interferon, HAART) effects, or consumptive process/dilution.
   -monitor PLT, coags
   -transfuse if Hct<21, Plt<[**9-23**]
   .
   #Rash- Most likely drug rash, followed by viral exanthem, and toxic
   shock syndrome.  No ocular/mucous membrane involvement or skin pain
   concerning for  [**Doctor Last Name 2527**]-[**Location (un) 744**] syndrome/TEN.  Additionally,
   histoplasmosis can rarely present with diffuse macular rashes.  Patient
   has h/o drug rash in response to vancomycin.  Vancomycin has some
   associated rashes, (infusion related Red Man (unlikely given timing of
   rash) IgE hypersensitivity, linear IgA  bullous dermatosis) and a rare
   exfoliative dermatitis, but pt
s rash is not yet consistent with any of
   these.  Zosyn is an unusual source of rash (2.3-5%).  HIV-associated
   erythrodermic rashes include drug reaction, hypereosinophilic syndrome,
   pityriasis rubra pilaris, and severe psoriasis.  The latter two would
   exhibit more epidermal and keratotic changes.  Finally, other HIV
   medications are capable of causing rashes, but he has been on these
   agents in the past.
   -          Derm consult as above.
   -          Sarna lotion for symptomatic relief.  Diphenhydramine for
   same.  Consider switching to atarax to decrease sedation.
   -          Continue triamcinolone cream x 2weeks per derm recs.
   -          If skin grows painful, or eyes/mouth become involved,
   re-consult derm
   #HIV/HCV - followed by Dr. [**First Name (STitle) 2482**] and Dr. [**Last Name (STitle) 2483**] of ID service.  LFT's at
   baseline.
   -continue [**Doctor Last Name 817**] with kaletra and truvada
   -Per ID, patient
s HCV treatment will be placed on hold until he begins
   treatment for methamphetamine addiction.
   .
   #Anemia - per patient [**1-11**] interferon/ribavirin therapy, gets aranesp
   injestions.  No evidence of acute bleeding and HCT close to baseline.
   -monitor HCT, PLT
   #PPX: pneumoboots (hold heparin given thrombocytopenia), bowel reg if
   needed
   .
   #FEN - regular diet, replete lytes prn
   .
   #Social- SW consult for addiction.  Should not go home with peripheral
   IV access.
   #Code Status - Full
   #Dispo- to hospitalist service
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2144-10-17**] 08:15 AM
   18 Gauge - [**2144-10-20**] 05:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2144-10-21 12:44:00 Physician Attending Progress Note
Chief Complaint: Sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient with rash felt by Dermatology consult to be most likely
   medication reaction which would be consistent with our impression as
   well.
   24 Hour Events:
 URINE CULTURE - At [**2144-10-20**] 05:00 PM
 FEVER - 103.5
F - [**2144-10-21**] 06:05 AM
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   Vancomycin
   Rash; rash comp
   Last dose of Antibiotics:
   Piperacillin - [**2144-10-18**] 10:00 PM
   Clindamycin - [**2144-10-20**] 08:30 AM
   Daptomycin - [**2144-10-20**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2144-10-21**] 06:08 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Flowsheet Data as of  [**2144-10-21**] 12:43 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.7
C (103.5
   Tcurrent: 38
C (100.4
   HR: 76 (70 - 93) bpm
   BP: 95/46(57) {83/34(48) - 112/62(68)} mmHg
   RR: 25 (10 - 28) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
   CVP: 3 (3 - 3)mmHg
   Total In:
                                                                  3,933 mL
                                                                  1,375 mL
   PO:
                                                                  2,200 mL
                                                                  1,050 mL
   TF:
   IVF:
                                                                  1,733 mL
                                                                    325 mL
   Blood products:
   Total out:
                                                                  4,739 mL
                                                                  3,315 mL
   Urine:
                                                                  4,739 mL
                                                                  3,315 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -806 mL
                                                                 -1,940 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///21/
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Skin:  Not assessed, Rash: Evolution in distribution but character
   similar--no bullae
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.6 g/dL
   63 K/uL
   108 mg/dL
   0.9 mg/dL
   21 mEq/L
   3.9 mEq/L
   9 mg/dL
   105 mEq/L
   136 mEq/L
   25.4 %
   7.2 K/uL
        [image002.jpg]
                             [**2144-10-17**]  10:58 AM
                             [**2144-10-17**]  01:34 PM
                             [**2144-10-17**]  05:05 PM
                             [**2144-10-17**]  06:59 PM
                             [**2144-10-18**]  03:51 AM
                            [**2144-10-19**]  03:00 AM
                            [**2144-10-20**]  02:12 AM
                            [**2144-10-21**]  03:48 AM
   WBC
   4.2
   4.1
   5.0
   3.2
   5.7
   7.2
   Hct
   29.6
   28.0
   29.5
   25.5
   24.9
   25.4
   Plt
   58
   60
   65
   49
   64
   63
   Cr
   0.7
   0.7
   0.8
   0.8
   0.8
   0.9
   TCO2
   18
   23
   Glucose
   104
   116
   130
   93
   100
   108
   Other labs: PT / PTT / INR:13.3/37.2/1.1, ALT / AST:46/51, Alk Phos / T
   Bili:49/0.8, Differential-Neuts:80.0 %, Band:7.0 %, Lymph:9.0 %,
   Mono:4.0 %, Eos:0.0 %, Fibrinogen:309 mg/dL, Lactic Acid:1.7 mmol/L,
   LDH:200 IU/L, Ca++:7.4 mg/dL, Mg++:2.1 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
   48 yo male with history of HIV/HCV now admit with sepsis  and with
   hosptial course complicated by persistent fevers and evolution is
   significant rash consistent with medication reaction.  Of note,
   although fevers have persisted, hemodynamic stability has improved.
 .H/O BRADYCARDIA
 RASH
   -Very concerning for possible atypical reaction to vancomycin
   -WIll continue to treat symptomatically until resolution
 SHOCK, SEPTIC--Much improved stability, primary source remains to be
   defined.
   -ZOsyn to continue until course completed
   -Will continue to follow up outstanding cultures
   -Expect fevers to resolve as medicaiton reaction resolves
   -WIll need to continue to discuss closely with ID team
   -Will pick stop date for antibiotics and follow for fever resolution
   with minimal medications in effect
   -Lyme pending, will need to follow up on mycolytic cultures as well.
   ICU Care
   Nutrition: po diet, D/C foley
   Glycemic Control:
   Lines:
   Multi Lumen - [**2144-10-17**] 08:15 AM
   18 Gauge - [**2144-10-20**] 05:00 PM
   Prophylaxis:
   DVT: Boots and OOB
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes